US07119122B2
Under a nitrogen atmosphere, 3-methoxy-N,N-dimethylbenzylamine (2.00 g, 12.1 mmol) was dissolved in anhydrous THF (20 mL) and cooled to 0° C. in an ice bath. 2.5M n-butyl lithium in hexanes (5.3 mL, 13.3 mmol) was added slowly, maintaining the temperature to below 5° C. The reaction was stirred at 0° C. for 2 b, then dimethyldisulfide (1.59 g, 13 mmol) was slowly added over 90 min, maintaining the temperature to below 5° C. The reaction mixture was stirred for 17 h, during which time the temperature was allowed to reach room temperature. Water (20 mL) and diethyl ether (30 mL) were added and the organic layer was separated and dried with MgSO4. After filtration, the crude solution was dissolved in ethyl acetate and absorbed in vacuo onto silica gel (1.5 g). This material was chromatographed on an ISCO CombiFlash Chromatography System to yield (2-methylsulfanyl-3-methoxybenzyl)-dimethyl-amine as a yellow oil (1.47 g, 57%).

reactant | 3-methoxy-N,N-dimethylbenzylamine | 12.1 mmol, 2.00 g | COC=1C=C(CN(C)C)C=CC1 | C10H15NO
reactant | n-butyl lithium | 2.5M | C(CCC)[Li]
reactant | dimethyldisulfide | 13 mmol, 1.59 g | CSSC | C2H6S2
reactant | Water | 20 mL | O | H2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | diethyl ether | 30 mL | C(C)OCC | C4H10O
product | (2-methylsulfanyl-3-methoxybenzyl)-dimethyl-amine | 1.47 g, 57% | CSC1=C(CN(C)C)C=CC=C1OC | C11H17NOS
